US06130228
7-Amino-5, 6-dihydro-4-methoxybenz-[c]-acridine (4)
2-amino-1-cyano-benzene (5.0 g, 42.3 mmol), 3, 4-dihydro-5-methoxy-[2H)-napthalen-1-one) (Aldrich Chemicals) (8.1 g, 46.0 mmol) and boron trifluoride diethyl etherate (1M, 5.7 ml, 46.6 mmol) were treated according to general procedure described herein to give the title compound.

reactant | 2-amino-1-cyano-benzene | 42.3 mmol, 5.0 g | NC1=C(C=CC=C1)C#N | C7H6N2
reactant | 3, 4-dihydro-5-methoxy-[2H)-napthalen-1-one | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | boron trifluoride diethyl etherate | 46.6 mmol, 1M, 5.7 ml | B(F)(F)F.CCOCC
product | 7-Amino-5, 6-dihydro-4-methoxybenz-[c]-acridine | NC1=C2C=CC=CC2=NC=2C3=C(CCC12)C(=CC=C3)OC | C18H16N2O
